US09145391B2
To a flask containing methyl trans-4-(chlorocarbonyl)cyclohexanecarboxylate (8.19 g, 40 mmol) was added 5-bromo-2-(trimethylsilyl)pyridine (8.4 g, 36.4 mmol). The resulting mixture was heated to 110° C. for 10 hours. The reaction was allowed to cool to 70° C., and hexane (30 mL) was added dropwise. The resulting mixture was stirred for 14 hours at room temperature, filtered, and the residue was washed with hexane (20 mL). The beige solid was dried under nitrogen to afford methyl trans-4-[(5-bromopyridin-2-yl)carbonyl]cyclohexanecarboxylate. MS ESI calcd for C14H17BrNO3 [M+H]+ 326 and 328. found 326 and 328. 1H NMR (600 MHz, CDCl3) δ 8.70 (d, J=1.8 Hz, 1H), 7.94 (dd, J=8.4, 2.3 Hz, 1H), 7.88 (d, J=8.3 Hz, 1H), 3.78 (tt, J=11.9, 3.4 Hz, 1H), 3.66 (s, 3H), 2.32 (tt, J=12.2, 3.6 Hz, 1H), 2.08 (dd, J=13.8, 3.5 Hz, 2H), 1.99 (dd, J=13.9, 3.1 Hz, 2H), 1.60 (m, 2H), 1.45 (m, 2H).

reactant | methyl trans-4-(chlorocarbonyl)cyclohexanecarboxylate | 40 mmol, 8.19 g | ClC(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C9H13ClO3
reactant | 5-bromo-2-(trimethylsilyl)pyridine | 36.4 mmol, 8.4 g | BrC=1C=CC(=NC1)[Si](C)(C)C | C8H12BrNSi
solvent | hexane | 30 mL | CCCCCC | C6H14
product | methyl trans-4-[(5-bromopyridin-2-yl)carbonyl]cyclohexanecarboxylate | BrC=1C=CC(=NC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H16BrNO3
